US06239131B1
Preparation of 1-(2,2-diethoxyethyl)-2-oxo-3-benzyloxycarbonylamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Under argon atmosphere, 2-oxo-3-benzyloxycarbonylamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (930 mg) in anhydrous N,N-dimethylformamide (20 ml) was added to a suspension of 60% sodium hydride (192 mg) in anhydrous N,N-dimethylformamide (20 ml), then stirred at room temperature for one hour. After bromoacetaldehyde diethylacetal (946 mg) in anhydrous N,N-dimethylformamide (10 ml) was added to the mixture, the resultant mixture was stirred overnight internal temperature at 70-75° C. Ice-water was added to the reaction mixture, extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1), to thereby obtain 468 mg of the title compound as a white solid.

reactant | 2-oxo-3-benzyloxycarbonylamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 930 mg | O=C1C(CN(C2=C(N1)C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2 | C23H21N3O3
reactant | sodium hydride | 192 mg | [H-].[Na+]
reactant | bromoacetaldehyde diethylacetal | 946 mg | C(C)OC(CBr)OCC | C6H13BrO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(2,2-diethoxyethyl)-2-oxo-3-benzyloxycarbonylamino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 468 mg | C(C)OC(CN1C(C(CN(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2)=O)OCC | C29H33N3O5
